* source THS4551
X_U1         N03533 N03613 OUT+ OUT- VOCM VCC VEE THS4551
R_Rf2         N03613 OUT+  1e3 TC=0,0 
R_Rg1         N03523 N03533  1e3 TC=0,0 
V_V1         VCC 0 2.5Vdc
R_Rg2         0 N03613  1e3 TC=0,0 
R_Rf1         N03533 OUT-  1e3 TC=0,0 
V_V2         VEE 0 -2.5Vdc
V_V3         N03523 0  AC 1
+SIN 0 0.2 100e6 0 0 0
R_Rl         OUT+ OUT-  1e3 TC=0,0 
V_V4         VOCM 0 0Vdc
